### PR TITLE
Implement BLAKE3 compress circuit

### PR DESCRIPTION
**Pull request by pirapira**
## Summary

This PR implements the BLAKE3 compress circuit, completing the implementation for issue #123. This is based on PR #212 which implements the ApplyRounds circuit.

- Implements `Clean.Gadgets.BLAKE3.Compress` that chains ApplyRounds and FinalStateUpdate circuits
- Complete soundness and completeness proofs
- Added to default lake build

## Test plan

- `lake build` succeeds
- All proofs complete without sorry

🤖 Generated with [Claude Code](https://claude.ai/code)

### CODE REVIEW

File: Clean/Gadgets/BLAKE3/Compress.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
...
+  ApplyRounds.circuit.Assumptions (F := F p) = ApplyRounds.Assumptions := rfl
+
+lemma ApplyRounds.circuit_spec_is :
+  ApplyRounds.circuit.Spec (F := F p) = ApplyRounds.Spec := rfl
+
+lemma FinalStateUpdate.circuit_assumptions_is :
+  FinalStateUpdate.circuit.Assumptions (F := F p) = FinalStateUpdate.Assumptions := rfl
+
+lemma FinalStateUpdate.circuit_spec_is :
+  FinalStateUpdate.circuit.Spec (F := F p) = FinalStateUpdate.Spec := rfl
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/Compress.lean]: Move these to their respective files.

File: Clean/Gadgets/BLAKE3/FinalStateUpdate.lean [hunk 2]
```diff
@@ -140,4 +140,10 @@ def circuit : FormalCircuit (F p) Inputs BLAKE3State := {
   elaborated with Assumptions, Spec, soundness, completeness
 }
 
+lemma circuit_assumptions_is :
+  circuit.Assumptions (F := F p) = Assumptions := rfl
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: instead of this you can usually just add `ApplyRounds.circuit` to the simp set. did you add it for efficiency?

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: For efficiency and separating responsibilities. Callers care about `Assumptions` and `Spec` but not about the operation list.

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: In the caller proof I saw `FinalStateUpdate.circuit.Assumptions`. I thought "sure you can see it" and added this lemma to simplify this term. Certain other things aren't supposed to appear in the goal state.

This is the first time I do this because I wrote the caller proof by hand from scratch, so I was more conscious.

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: ^ is just one of my proof-writing modes.

Comment (mitschabaude) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: > For efficiency and separating responsibilities. Callers care about Assumptions and Spec but not about the operation list.

got it, makes sense!

fyi you can also do this inline with something like
```lean
rw [show FinalStateUpdate.circuit.Assumptions = FinalStateUpdate.Assumptions from rfl]
```

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: I can go in the other direction and add `circuit_assumptions_is ` in `circuit_norm`. Maybe there's a way to make it happen everywhere for `FormalCircuit`s.

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: There's @[simps] attribute that can be used for this.

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: `@[simps]` didn't work. It's for the default simp set. To use it, I need to drop `only` from `simp only`. When I do that the `simp` timeouts.

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: Instead, I added
```
@[circuit_norm]
lemma circuit_assumptions_is :
  circuit.Assumptions (F := F p) = Assumptions := rfl
```
in `circuit_norm`.

I think people don't need to unfold `circuit` in most cases, and they can often avoid seeing big struct literals.

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]:
```
@[simps! (config := {isSimp := false, attrs := [`circuit_norm]})]
```
did the trick. This is a common enough use case.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 3]
```diff
@@ -734,9 +734,18 @@ theorem completeness : Completeness (F p) elaborated Assumptions := by
...
   elaborated with Assumptions, Spec, soundness, completeness
 }
 
+@[circuit_norm]
+lemma circuit_assumptions_is :
+  circuit.Assumptions (F := F p) = Assumptions := rfl
+
+@[circuit_norm]
+lemma circuit_spec_is :
+  circuit.Spec (F := F p) = Spec := rfl
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: these should definitely not go into `circuit_norm`, they are used in a single other proof and can just be added there directly

in general, anything about specific gadgets should be considered in user land and should not modify the core library. the only exception are core, very frequently used gadgets like `assertBool` or `Equality.circuit`

File: Clean/Gadgets/BLAKE3/FinalStateUpdate.lean [hunk 4]
```diff
@@ -135,6 +135,12 @@ theorem completeness : Completeness (F p) elaborated Assumptions := by
...
   simp_all only [gt_iff_lt, forall_const, and_self]
 
+/-
+The `@[simps! ...] attributes add equations to `circuit_norm` so that `FinalStateUpdate.circuit.{Assumption, (or any other field)}`
+gets replaced with the definition. This leads to much less `simp only [FinalStateUpdate.circuit]` and we avoid seeing a big struct
+literal in the goal state.
+-/
+@[simps! (config := {isSimp := false, attrs := [`circuit_norm]})]
 def circuit : FormalCircuit (F p) Inputs BLAKE3State := {
   elaborated with Assumptions, Spec, soundness, completeness
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: should not be added to `circuit_norm`

File: Clean/Gadgets/BLAKE3/FinalStateUpdate.lean (hunk 2 above)
Comment (mitschabaude) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: interesting trick, nice to know! I don't think these should be added to `circuit_norm` for random gadgets though

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 3 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: Here I'm making a strong statement that nobody ever needs to see `ApplyRounds.circuit.Spec` in the goal state, and they should see `ApplyRounds.Spec` instead.

File: Clean/Gadgets/BLAKE3/FinalStateUpdate.lean (hunk 4 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: Here I'm also making a strong statement that there's no use seeing `FinalStateUpdate.circuit.Assumptions` in the goal state. Instead people should see `FinalStateUpdate.Assumptions`.

I also think all proofs should look like `simp only [circuit_norm]` without `FinalStateUpdate.circuit` etc.

**Comment by mitschabaude** [comment]
fwiw, I don't think adding something like `ApplyRounds.circuit` to a simp invocation is too bad, even if you just want to unfold (say) `ApplyRounds.circuit.Assumptions`. `simp` will do the structure field reduction and, after first expanding `ApplyRounds.circuit`, find and get the `.Assumptions` attribute from the expanded circuit

File: Clean/Gadgets/BLAKE3/FinalStateUpdate.lean (hunk 2 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: I believe this should be done for every gadget. Because there's no benefit in seeing `Gadget.circuit.Assumptions` ever in the goal state. Instead people should see `Gadget.Assumptions`. This makes the goal state shorter and simpler in all cases.

Comment (mitschabaude) [reply Clean/Gadgets/BLAKE3/FinalStateUpdate.lean]: but it has a cost, no? the theorem will be processed in every single gadget proof ever, even it only relates to a very specific gadget that's unrelated to almost all usages of the library. and the downside of unpacking the `.circuit` struct seems very small to me

**Comment by pirapira** [comment]
> also will be accessed via a struct field and simp will reduce those as well.

It does not happen when `ApplyRounds.circuit` appears as an argument of a function (which is not a projection).

**Comment by mitschabaude** [comment]
> > also, by analogy, we'd have to do that for every particular gadget
> 
> Yes, we need to. There's no merit in leaving the choice to the user of the gadgets.

I think there is merit: we improve efficiency of simp by keeping the simp set at a reasonable size

**Comment by pirapira** [comment]
> an ever growing list of lemmas (one for each circuit) that all do the same thing

That's the way to go.

**Comment by mitschabaude** [comment]
besides that, keeping subcircuit data opaque sometimes does have merit sometimes, it lets you stage a proof more incrementally. note that `FinalStateUpdate.circuit.Assumptions` is not necessarily defined in a separate method `FinalStateUpdate.Assumptions`. it could be defined directly on `FinalStateUpdate` and unfold to something large, even when you don't need it

**Comment by pirapira** [comment]
simproc: the dynamically generated lemma needs to be type-checked. Is that really faster than finding matches in the simp set of already type-checked lemmas? I don't look at it right now.

**Comment by mitschabaude** [comment]
maybe we can merge this PR without the simp set additions and launch a more thorough experiment towards simplifying proofs in a new PR?

**Comment by pirapira** [comment]
Here's the version without the `simps`.

It seems like `simps` technique is different from the current intended usage of `circuit_norm`.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 5]
```diff
@@ -733,9 +733,8 @@ theorem completeness : Completeness (F p) elaborated Assumptions := by
...
   · apply h_message_normalized
 
-
+-- Unfortunately @[simps! (config := {isSimp := false, attrs := [`circuit_norm]})] timeouts.
+-- Therefore I had to add simplification rules `circuit_assumptions_is` and `circuit_spec_is` manually.
 def circuit : FormalCircuit (F p) Inputs BLAKE3State := {
   elaborated with Assumptions, Spec, soundness, completeness
 }
-
-end Gadgets.BLAKE3.ApplyRounds
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: unintended change?
